US06291475B1
(b) Ethyl (2-cyclopentylidene)cyanoacetate
The sub-title compound was prepared in a 69% yield analogously to the method described in Organic Synthesis, 39, 25 (1959) from cyclopentanone and ethyl cyanoacetate.

reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
product | Ethyl (2-cyclopentylidene)cyanoacetate | 69% yield | C1C(CCC1)=C(C(=O)OCC)C#N | C10H13NO2
